US07994209B2
(S)-3-[(R)-1-(2,3-Dichlorophenoxy)-2-ethylbutyl]pyrrolidine
(S)-3-(R)-2-Ethyl-1-hydroxybutyl)pyrrolidine-1-carboxylic acid t-butyl ester (28 mg, 0.1 mmol) was dissolved in DMF (380 μL, 4.9 mmol). 60% Sodium hydride in oil (0.4:0.6, sodium hydride:mineral oil, 18.6 mg, 310 μmmol) was slowly added, and the resulting mixture was stirred at room temperature for 15 minutes. 1,2-Dichloro-3-fluorobenzene (23.8 μL, 206 μmmol) was added and the mixture was stirred at 70° C. for 3 hours. The mixture was concentrated, treated with 1.25M HCl in EtOH (578 μL, 722 μmmol), then stirred overnight at room temperature. The product was concentrated under vacuum, redissolved in 1:1AcOH:H2O, filtered, and purified by preparative HPLC to yield the title compound as a mono-TFA salt (5.3 mg, 97% purity). MS m/z: [M+H]+ calcd for C16H23Cl2NO, 316.12; found 316.3.

reactant | pyrrolidine-1-carboxylic acid t-butyl ester | 0.1 mmol, 28 mg | C(C)(C)(C)OC(=O)N1CCCC1 | C9H17NO2
reactant | DMF | 4.9 mmol, 380 μL | CN(C)C=O | C3H7NO
reactant | Sodium hydride | [H-].[Na+]
reactant | 1,2-Dichloro-3-fluorobenzene | 23.8 μL | ClC1=C(C(=CC=C1)F)Cl | C6H3Cl2F
product | (S)-3-[(R)-1-(2,3-Dichlorophenoxy)-2-ethylbutyl]pyrrolidine | ClC1=C(O[C@H](C(CC)CC)[C@@H]2CNCC2)C=CC=C1Cl | C16H23Cl2NO
